US06458814B1
a) Ethyl (±)-4-(4-hydroxymethyl-1,3-oxazol-2-yl)-3-phenylbutanoate
To a solution of ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate (500 mg, 1.65 mmole) in dry THF (8 mL) was added 4-methylmorpholine (0.22 mL, 1.99 mmole) then ethyl chloroformate (0.19 mL, 1.99 mmole) at 0° C. After 10 min, NaBH4 (249 mg, 6.59 mmole) was added all at once, then MeOH (8 mL) was added dropwise. After 30 min, the mixture was quenched with H2O (20 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was chromatographed on silica gel (80% EtOAc/hexanes) to give the title compound (371 mg, 78%) as a yellow oil: MS (ES) m/e 290 (M+H)+.

reactant | ethyl (±)-4-(4-carboxy-1,3-oxazol-2-yl)-3-phenylbutanoate | 1.65 mmole, 500 mg | C(=O)(O)C=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C16H17NO5
reactant | 4-methylmorpholine | 1.99 mmole, 0.22 mL | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 1.99 mmole, 0.19 mL | ClC(=O)OCC | C3H5ClO2
reactant | NaBH4 | 6.59 mmole, 249 mg | [BH4-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | MeOH | 8 mL | CO | CH4O
product | Ethyl (±)-4-(4-hydroxymethyl-1,3-oxazol-2-yl)-3-phenylbutanoate | 371 mg, 78% | OCC=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C16H19NO4
